US07435837B2
(±)-{[7-(2-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.039 g, 51%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-{[7-(2-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate (0.102 g, 0.24 mmol) and methylamine (0.074 g, 2.4 mmol). mp 110-112° C.

reactant | (±)-{[7-(2-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate | 0.24 mmol, 0.102 g | FC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C)OC | C23H21FO5S
reactant | methylamine | 2.4 mmol, 0.074 g | CN | CH5N
product | (±)-{[7-(2-fluorophenyl)-5-methoxy-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)CNC)OC | C17H18FNO2
